US08633189B2
2-Cyclopentyl-4-fluorophenyl methyl carbonate (2.246 g, 9.43 mmol) was added portion-wise to H2SO4 (6.9 mL, 130.0 mmol) to generate a colorless homogeneous solution. This solution was then cooled to 0° C. and KNO3 (1.143 g, 11.31 mmol) was added portion-wise maintaining the internal temperature below 5° C. The reaction was stirred for 2 h and then poured on ice water. The aqueous layer was extracted with dichloromethane (3×10 mL). The combined organic extracts were dried over Na2SO4, filtered and concentrated. Purification by silica gel chromatography (10% ethyl acetate/hexanes) provided 2-cyclopentyl-4-fluoro-5-nitrophenyl methyl carbonate (2.063 g, 77% yield). 1H NMR (400.0 MHz, DMSO-d6) δ 8.19 (d, J=6.9 Hz, 1H), 7.63 (d, J=12.5 Hz, 1H), 3.89 (t, J=5.9 Hz, 3H), 3.18-3.12 (m, 1H), 1.99-1.92 (m, 2H), 1.82-1.74 (m, 2H), 1.69-1.51 (m, 4H). MS (ESI) m/z (M+H+): 284.3.

reactant | 2-Cyclopentyl-4-fluorophenyl methyl carbonate | 9.43 mmol, 2.246 g | C(OC1=C(C=C(C=C1)F)C1CCCC1)(OC)=O | C13H15FO3
reactant | H2SO4 | 130.0 mmol, 6.9 mL | OS(=O)(=O)O | H2O4S
reactant | KNO3 | 11.31 mmol, 1.143 g | [N+](=O)([O-])[O-].[K+]
product | 2-cyclopentyl-4-fluoro-5-nitrophenyl methyl carbonate | 2.063 g, 77% yield | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])F)C1CCCC1)(OC)=O | C13H14FNO5
